datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12](=[S:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:14])[H:7])([H:5])[H:6].[C:12](=[S:13])[H:15],161.293
[C:13]([H:14])([H:15])[H:16].[S:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:7][C:13]([H:14])([H:15])[H:16].[S:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],-0.8368
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[C:25]([c:26]1[c:27]([H:34])[c:28]([H:35])[c:29]([H:36])[c:30]([H:37])[c:31]1[H:38])([H:32])[H:33]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[C:25]([c:26]1[c:27]([H:34])[c:28]([H:35])[c:29]([H:36])[c:30]([H:37])[c:31]1[H:38])([H:32])[H:33])([H:11])([H:12])[H:13],43.8902
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:11])([H:13])[H:14])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],125.9384
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[N:8][H:9]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][N:8][H:9],70.0
[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[S:6]=[C:7]([S:8][H:10])[H:9]>>[C:0]([C:1](=[S:2])[H:9])([H:3])([H:4])[H:5].[S:6]=[C:7][S:8][H:10],33.8904
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[H:7][H:8]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:8])[H:4].[H:7],92.4664
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([O:12][H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[O:12][H:16])[H:6])([H:4])[H:5].[C:11]([H:13])([H:14])[H:15],200.988
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[O:7][O:8]>>[C:0](=[C:1]([H:5])[H:6])([H:2])[H:3].[H:4][O:7][O:8],66.9022
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])=[C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])[H:18])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])[C:6]1([C:7](=[C:8]([H:20])[H:21])[H:19])[H:18],59.1199
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[O:6][H:7]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][O:6][H:7],-17.531
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[H:8][C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14],0.0
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[S:19]=[C:20][S:21][H:22]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:20](=[S:19])[S:21][H:22],26.3592
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]#[C:12][C:13]([H:17])([H:18])[H:19])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:12](=[C:11][C:10](=[C:9]([H:14])[H:15])[H:16])[C:13]([H:17])([H:18])[H:19])[H:4],38.6602
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([C:8](=[C:9]([H:21])[H:22])[H:20])[C:7]1([H:18])[H:19])[H:10],41.6308
[H:0].[O:1][C:2]([c:3]1[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]([H:14])[c:8]1[H:15])([H:9])[H:10]>>[H:0][H:9].[O:1]=[C:2]([c:3]1[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]([H:14])[c:8]1[H:15])[H:10],0.0
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[H:15])[H:14])([H:12])[H:13])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])[C:5]1([C:6](=[C:7]([H:17])[H:18])[H:16])[H:15])[H:10])([H:8])[H:9],167.946
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[C:15]([C:14](=[C:13]([H:19])[H:20])[H:21])([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25])[H:8])[H:7])([H:5])[H:6],61.3374
[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([C:5]([H:13])([H:14])[H:15])[c:6]([H:16])[c:7]1[H:17])([H:8])([H:9])[H:10]>>[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([C:5]([H:13])([H:14])[H:15])[c:6]([H:16])[c:7]1[H:17])([H:9])[H:10].[H:8],396.588808
[C:0]1([H:7])[C:1]([H:8])=[C:2]([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15]>>[C:0]1([H:7])([H:14])[C:1]([H:8])=[C:2]([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])([H:13])[C:6]1[H:15],199.5768
